US07291631B2
Using General Procedure B, reaction of {4-[(3-Methyl-pyridin-2-ylmethyl)-amino}-butyl}-carbamic acid tert-butyl ester, 1-(4-methylpyridin-2-yl)-ethanone and NaBH(OAc)3 in CH2Cl2 gave {4-[[1-(4-methyl-pyridin-2-yl)-ethyl]-(3-methylpyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester as a pale yellow oil. Conversion to the HBr salt using General Procedure D gave COMPOUND 244 as a white solid. 1H NMR (D2O) δ 1.47 (br, 4H), 1.54 (d, 3H, J=6.0 Hz), 2.45 (s, 3H), 2.60 (m, 1H), 2.63 (s, 3H), 2.71 (m, 1H), 2.85 (br, 2H), 4.27 (s, 2H), 4.49 (q, 1H, J=6.0 Hz), 7.78 (d, 1H, J=6.3 Hz), 7.83 (t, 1H, J=7.2 Hz), 7.95 (s, 1H), 8.33 (d, 1H, J=7.8 Hz), 8.56 (m, 2H). 13C NMR (D2O) δ 15.08, 17.10, 22.38, 24.01, 25.03, 39.57, 51.07, 52.81, 59.73, 125.84, 127.25, 127.40, 137.08, 138.22, 140.83, 148.27, 152.41, 154.85, 162.82. ES-MS m/z 313 (M+H). Anal. Calcd. for C19H28N4.4.3HBr.3.5H2O: C, 31.55; H, 5.48; N, 7.74; Br, 47.49. Found: C, 31.64; H, 5.63; N, 7.43; Br, 47.61.

reactant | {4-[(3-Methyl-pyridin-2-ylmethyl)-amino}-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC1=NC=CC=C1C)=O | C16H27N3O2
reactant | 1-(4-methylpyridin-2-yl)-ethanone | CC1=CC(=NC=C1)C(C)=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {4-[[1-(4-methyl-pyridin-2-yl)-ethyl]-(3-methylpyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1C)C(C)C1=NC=CC(=C1)C)=O | C24H36N4O2
